US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-5-methoxy-nicotinamide
From 5-methoxy-nicotinic acid, HATU and N-ethyldiisopropylamine in THF, then treatment with (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine. [α]D20=+5.8° (c=0.10, DMSO), ES-MS m/e (%): 402 (M+H+, 100).

reactant | 5-methoxy-nicotinic acid | COC=1C=NC=C(C(=O)O)C1 | C7H7NO3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-5-methoxy-nicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CN=CC(=C2)OC)=O)OC | C19H19N3O5S
